US08614209B2
(Hexahydro-[1,4]dioxino[2,3-c]pyridin-6-yl)-[5-(1H-pyrazol-4-yl)-thiophen-3-yl]-methanone (FF-27) (CIS ISOMERS)
Octahydro-[1,4]dioxino[2,3-b]pyridine (0.049 g, 0.34 mmol) was dissolved in acetonitrile (1 mL) then 5-(1H-pyrazol-4-yl)-thiophene-3-carboxylic acid (0.060 g, 0.31 mmol) was added then DIPEA (0.116 mL, 0.68 mmol) followed by HATU (0.141 g, 0.37 mmol). The resulting mixture was stirred overnight then further amounts of DIPEA (0.31 mmol) and HATU (0.31 mmol) were added and stirring continued overnight. The mixture was evaporated and the residue was suspended in sodium hydroxide (1 N, 2.5 mL) and stirred for 20 minutes. The mixture was extracted with DCM (×3) then the organics were dried over sodium sulfate, filtered and evaporated. The material was purified by HPLC, eluting with 5%-95% acetonitrile in water (0.1% formic acid) over 20 minutes and the fractions containing the desired product were combined and freeze-dried to give the title compound as a white foam (0.008 g). LCMS m/z 320.19 [M+H]+ R.T.=5.95 min (Analytical Method 2).

reactant | Octahydro-[1,4]dioxino[2,3-b]pyridine | 0.34 mmol, 0.049 g | O1CCOC2NCCCC21 | C7H13NO2
reactant | 5-(1H-pyrazol-4-yl)-thiophene-3-carboxylic acid | 0.31 mmol, 0.060 g | N1N=CC(=C1)C1=CC(=CS1)C(=O)O | C8H6N2O2S
reactant | DIPEA | 0.68 mmol, 0.116 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.37 mmol, 0.141 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.31 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.31 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | (Hexahydro-[1,4]dioxino[2,3-c]pyridin-6-yl)-[5-(1H-pyrazol-4-yl)-thiophen-3-yl]-methanone | 0.008 g | O1CCOC2CN(CCC21)C(=O)C2=CSC(=C2)C=2C=NNC2 | C15H17N3O3S
